US04366315
A mixture consisting of 394 mg (1.08 mmoles) of 3-methyl-7-phenoxyacetamido-3-cephem-4-carboxylic acid-1-oxide and 208 mg (0.86 mmole) of trimethylsilyl trimethylsilylamidosulfonate in 25 ml of dichloromethane was refluxed for 2 hours and the transluent suspension obtained was cooled in an ice-bath and diluted with dichloromethane to about 40 ml. Bromination was carried out in half an hour using 289 mg (1.62 mmoles) of N-bromosuccinimide as the brominating agent to obtain a 41% yield of trimethylsilyl 3-bromomethyl-7-phenyloxyacetamido-3-cephem-4-carboxylate-1-oxide.

reactant | 3-methyl-7-phenoxyacetamido-3-cephem-4-carboxylic acid-1-oxide | 1.08 mmoles, 394 mg | CC=1CS([C@H]2N(C1C(=O)O)C(C2NC(COC2=CC=CC=C2)=O)=O)=O | C16H16N2O6S
reactant | trimethylsilyl trimethylsilylamidosulfonate | 0.86 mmole, 208 mg | C[Si](C)(C)NS(=O)(=O)O[Si](C)(C)C | C6H19NO3SSi2
reactant | N-bromosuccinimide | 1.62 mmoles, 289 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | trimethylsilyl 3-bromomethyl-7-phenyloxyacetamido-3-cephem-4-carboxylate-1-oxide | 41% yield | BrCC=1CS([C@H]2N(C1C(=O)O[Si](C)(C)C)C(C2NC(COC2=CC=CC=C2)=O)=O)=O | C19H23BrN2O6SSi
